US04517187
To a stirred solution of cis-1,2,3,4-tetrahydro-1-(ethylamino)methyl-4-phenyl-isoquinoline dihydrochloride (19.5 g, 0.057 m) in chloroform (250 ml) maintained under nitrogen at ambient temperature was added triethylamine (26.0 g, 0.25 m) and then in one portion diethyl oxalate (36.4 g, 0.23 m) and the mixture heated to reflux for 5 hours. The mixture was cooled and washed with 10% HCl (3×150 ml) and water (200 ml) and dried over MgSO4. The solvent was evaporated to a yellow oil, which was dissolved in 200 ml ethanol, decolorized with Norite. Upon cooling and standing, a white solid crystallized which was collected by filtration and dried to give 11.2 g of cis-1,3,4,6,7,11b-hexahydro-2-ethyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline-3,4-dione.

reactant | cis-1,2,3,4-tetrahydro-1-(ethylamino)methyl-4-phenyl-isoquinoline dihydrochloride | 19.5 g | Cl.Cl.C(C)NC[C@@H]1NC[C@@H](C2=CC=CC=C12)C1=CC=CC=C1
reactant | triethylamine | 26.0 g | C(C)N(CC)CC | C6H15N
reactant | diethyl oxalate | 36.4 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-1,3,4,6,7,11b-hexahydro-2-ethyl-7-phenyl-2H-pyrazino[2,1-a]isoquinoline-3,4-dione | 11.2 g | C(C)N1C[C@@H]2N(C[C@H](C3=CC=CC=C23)C2=CC=CC=C2)C(C1=O)=O | C20H20N2O2
